US04943574
To a stirred solution of 10 parts of 4-chloro-α-methyl-3-nitrobenzenemethanol in 90 parts of tetrahydrofuran were added 8 parts of 1,1'-carbonylbis[1H-imidazole]. After stirring for 4 hours at reflux temperature, the tetrahydrofuran layer was evaporated. After the addition of 90 parts of methylbenzene, the reaction mixture was stirred for 75 hours at reflux. The reaction mixture was evaporated and the residue was taken up in water. The whole was treated with an ammonium hydroxide solution and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was crystallized from 84 parts of 1,1'-oxybisethane. The product was filtered off and dried, yielding 4.2 parts (33.3%) of 1-[1-(4-chloro-3-nitrophenyl)ethyl]-1H-imidazole (int. 141).

reactant | 4-chloro-α-methyl-3-nitrobenzenemethanol | ClC1=C(C=C(C=C1)C(O)C)[N+](=O)[O-] | C8H8ClNO3
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[1-(4-chloro-3-nitrophenyl)ethyl]-1H-imidazole | 33.3% | ClC1=C(C=C(C=C1)C(C)N1C=NC=C1)[N+](=O)[O-] | C11H10ClN3O2
